US07148362B2
A solution of 1.82 mmol of (R)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid in 37 ml of N,N-dimethylformamide was cooled to 0° C., was treated consecutively with 2.0 mmol of triethylamine, 1.82 mmol of HBTU, 2.2 mmol of methylamine hydrochloride, and 2.0 mmol of triethylamine. The ice-bath was removed, and stirring continued at RT. The reaction was stopped after 30 min, and the orange coloured solution was evaporated under reduced pressure. The residue obtained was triturated in 1 ml of ethyl acetate; the white solid product was filtered, thereafter dissolved in dichloromethane; and the solution washed three times with water. The organic phase was dried over sodium sulfate, then evaporated under reduced pressure to yield 409 mg (66% of theory) of the (R)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide a white solid. MS: m/e=343 (M+H)+; enantiomeric excess >99.5%.

reactant | (R)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid | 1.82 mmol | FC1=CC=C(COC2=CC=C(C=C2)N2C[C@@H](CC2=O)C(=O)O)C=C1 | C18H16FNO4
reactant | triethylamine | 2.0 mmol | C(C)N(CC)CC | C6H15N
reactant | HBTU | 1.82 mmol | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | methylamine hydrochloride | 2.2 mmol | Cl.CN
reactant | triethylamine | 2.0 mmol | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 37 ml | CN(C=O)C | C3H7NO
product | (R)-1-[4-(4-fluoro-benzyloxy)-phenyl]-5-oxo-pyrrolidine-3-carboxylic acid methylamide | 409 mg, 66% | CNC(=O)[C@H]1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=C(C=C1)F | C19H19FN2O3
